US05049669
A mixture of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (1 g) and butylamine (1.5 cc) in absolute ethanol (20 cc) is saturated with hydrogen sulphide and then heated for 24 hours to a temperature in the region of 120° C. After being cooled, the reaction mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is taken up with distilled water (10 cc) and ethyl acetate (25 cc). After extraction, the organic phase is separated, washed with distilled water (10 cc) and then with saturated aqueous sodium chloride solution (20 cc), dried over potassium carbonate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. N-Butyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (1.15 g) is thereby obtained in the form of a viscous yellow oil which is subsequently used as it is.

reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 1 g | N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C20H23N3S2
reactant | butylamine | 1.5 cc | C(CCC)N | C4H11N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | N-Butyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 1.15 g | C(CCC)NC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C24H31N3S2
